US09062044B2
Step A: 8-[4-(2-fluoro-phenyl)-2-methyl-thiazole-5-carbonyl]-3,8-diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester.
3,8-Diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester (92 mg, 0.44 mmol), 4-(2-fluoro-phenyl)-2-methyl-thiazole-5-carboxylic acid (104 mg, 0.44 mmol), di-isopropylethylamine (0.25 mL, 1.30 mmol) and HATU (247 mg, 0.65 mmol) were dissolved into DMF (5 mL) and stirred at room temperature for 18 h. The reaction mixture was diluted with ethyl acetate (20 mL) and washed with 1N NaOH (10 mL) and water (2×100 mL). The organic layers were combined, dried, filtered and concentrated to yield the title compound (125 mg, 67%). MS (ESI) mass calcd. for C12H18FN3OS, 431.41; m/z found, 432.3 [M+H]+.

reactant | 3,8-Diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester | 0.44 mmol, 92 mg | C(C)(C)(C)OC(=O)N1CC2NCC2CC1 | C11H20N2O2
reactant | 4-(2-fluoro-phenyl)-2-methyl-thiazole-5-carboxylic acid | 0.44 mmol, 104 mg | FC1=C(C=CC=C1)C=1N=C(SC1C(=O)O)C | C11H8FNO2S
reactant | di-isopropylethylamine | 1.30 mmol, 0.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.65 mmol, 247 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 8-[4-(2-fluoro-phenyl)-2-methyl-thiazole-5-carbonyl]-3,8-diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester | 125 mg, 67% | C(C)(C)(C)OC(=O)N1CC2N(CC2CC1)C(=O)C1=C(N=C(S1)C)C1=C(C=CC=C1)F | C22H26FN3O3S
